US05804583
5-Butyl-6-((2'-carboxybiphenyl-4-yl)methyl]imidazo[1,2-a]pyrimidin-2,7-dione.
A solution of 0.17 g of 5-butyl-6-[(2'-methoxycarbonylbiphenyl-4-yl)methyl]imidazo[1,2-a]pyrimidin-2,7-dione in 2 ml of MeOH is added with 32 mg of NaOH dissolved in 0.05 ml of H2O. After 24 h under reflux, the solvent is evaporated under reduced pressure and the residue is taken up in H2O and acidified to pH 5, to separate a solid which is filtered off and washed thoroughly with H2O. The purification is carried out by FC (eluent CH2Cl2 --MeOH--AcOH 89:10:1), to obtain 85 mg of a white solid (51% yield; m.p.=220°-222° C.).

reactant | 5-butyl-6-[(2'-methoxycarbonylbiphenyl-4-yl)methyl]imidazo[1,2-a]pyrimidin-2,7-dione | 0.17 g | C(CCC)C1=C(C(N=C2N1CC(N2)=O)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C(=O)OC | C25H25N3O4
reactant | NaOH | 32 mg | [OH-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
solvent | H2O | 0.05 ml | O | H2O
product | 5-Butyl-6-((2'-carboxybiphenyl-4-yl)methyl]imidazo[1,2-a]pyrimidin-2,7-dione | 85 mg, 51% yield | C(CCC)C1=C(C(N=C2N1CC(N2)=O)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C(=O)O | C24H23N3O4
